US05472946
Example 1A was repeated, replacing starting materials with N-ethyl alanine ethyl ester and dodecanoyl chloride and followed by hydrolysis to give N-Ethyl-N-(1-oxododecyl)alanine.

reactant | N-ethyl alanine ethyl ester | C(C)OC([C@@H](NCC)C)=O | C7H15NO2
reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N-Ethyl-N-(1-oxododecyl)alanine | C(C)N([C@@H](C)C(=O)O)C(CCCCCCCCCCC)=O | C17H33NO3
